US04041071
Trans m-bromocinnamic acid (14.8 g), ethanol (173 ml) and concentrated sulfuric acid (0.4 ml) were combined and heated at reflux for 15 hours. About 150 ml of the ethanol was distilled off, and the remaining solution was poured into ice/water (140 ml). The cold mixture was made strongly alkaline with 40% sodium hydroxide and extracted with methylene chloride (4 × 60 ml). The combined methylene chloride extract was dried over anhydrous potassium carbonate. The potassium carbonate was removed by filtration and the solvent stripped off under reduced pressure. Trans ethyl 3-bromocinnamate, was obtained as a partially solidified oil. (IR spectrum was consistent with this compound).

reactant | Trans m-bromocinnamic acid | 14.8 g | BrC=1C=C(/C=C/C(=O)O)C=CC1 | C9H7BrO2
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 173 ml | C(C)O | C2H6O
product | Trans ethyl 3-bromocinnamate | BrC=1C=C(/C=C/C(=O)OCC)C=CC1 | C11H11BrO2
